Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left flank pain
Nausea and Emesis
Unable to tolerate orals x3 days
 
Major Surgical or Invasive Procedure:
Cystoscopy, left ureteral stent placement, ureteroscopy with 
left retrograde pyelogram

 
History of Present Illness:
Mr. ___ is a ___ with history of kidney stones who 
presented to the ED with nausea, vomiting, left flank pain with 
decreased urination on ___. Initial work up found him to 
have a WBC of 17. Creatinine of 2.1. Imaging confirmed 4 mm 
obstructing stone within the distal left ureter with resulting 
moderate hydroureteronephrosis.  There is substantial left 
perinephric 
stranding without definite fluid collection. Multiple bilateral 
non-obstructing stones measuring up to 4 mm on the left and 5 mm 
on the right. 
 
  

 
Past Medical History:
Nephrolithiasis
 
Social History:
___
Family History:
Non-contributory for urologic malignancy
 
Physical Exam:
N: Alert, oriented NAD
Resp: No shortness of breath or respiratory effort
CV: RRR, no ectopy
Abd: +Left flank discomfort resolving
___: No edema, ambulatory without assistance

 
Pertinent Results:
___ 12:10PM   GLUCOSE-114* UREA N-13 CREAT-2.0* SODIUM-138 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-26 ANION GAP-12
___ 12:10PM   estGFR-Using this
___ 12:10PM   ALT(SGPT)-25 AST(SGOT)-35 ALK PHOS-79 TOT 
BILI-1.1
___ 12:10PM   LIPASE-23
___ 12:10PM   ALBUMIN-4.3
___ 12:10PM URINE  HOURS-RANDOM
___ 12:10PM URINE  UHOLD-HOLD
___ 12:10PM   WBC-17.1* RBC-5.90 HGB-15.9 HCT-50.4 MCV-85 
MCH-26.9 MCHC-31.5* RDW-14.7 RDWSD-45.1
___ 12:10PM   NEUTS-82.4* LYMPHS-8.1* MONOS-8.7 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-14.07* AbsLymp-1.39 AbsMono-1.48* 
AbsEos-0.02* AbsBaso-0.03
___ 12:10PM   PLT COUNT-253
___ 12:10PM URINE  TYPE-RANDOM COLOR-Straw APPEAR-Clear SP 
___
___ 12:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:10PM URINE  ___ BACTERIA-FEW* YEAST-NONE 
___ 12:10PM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
Mr. ___ is a ___  was admitted to Urolgoy's service for 
nephrolithiasis management with a known UVJ obstructing kidney 
stone found on imaging obtained in the ED. He was admitted for 
hydration and conservative management with hydration and MET 
therapy. 

He had a WBC of 17 with a creatinine bump of 2.1, unable to 
tolerate orals and signifincat pain. 

His follow up laboratory work showed that his creatinine had not 
improved significantly with hydration and he still had 
significant flank discomfort. The decision was made to take him 
to the OR for a Cystoscopy, left ureteral stent placement, left 
ureteroscopy and left retrograde pyelogram. 

Mr. ___ tolerated the procedure well and recovered in the 
PACU before transfer to the general surgical floor.

See the dictated operative note for full details. He recovered 
on the floor for a few more hours after his procedure and was 
discharged home that evening. 

At the time of discharge he was alert and interactive, able to 
tolerate orals, voiding without difficulty and instructed on how 
to remove stent on ___.
  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild Duration: 14 
Days 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*84 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO ONCE Duration: 1 Dose 
Take the morning of stent removal 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth once Disp #*1 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*14 Capsule Refills:*0 
4.  Phenazopyridine 100 mg PO TID Duration: 5 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS 
take only if Colace is not working 
RX *sennosides [senna] 8.6 mg 2 tablet(s) by mouth at bedtime 
Disp #*14 Tablet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS 
please take at bedtime 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
7.  Atorvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left UVJ obstruction
Left Hydronephrosis

 

 
Discharge Condition:
___ YOM male, NAD, AVSS
Interactive, cooperative
Abdomen soft, Nt/Nd
Lower extremities w/out edema or pitting and no report of calf 
pain

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter. This is normal.

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-You are being discharge on Pyridum. Your stent may cause you to 
have spasms. You should take this medication as directed if you 
experience flank discomfort or bladder spasms while the stent is 
in. This medication will turn your urine orange.

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-Your stent is attached to a string. Please take the 
Ciprofloxacin 500 mg (this is an antibiotic)at least 30 minutes 
before stent removal on ___. 

-On ___ please remove the stent. All you will need to do is 
find the string and pull on it until the stent until it is 
completely out. 

 
Followup Instructions:
___